US06011145
A reaction mixture of 50 mM Tris-HCl (pH 7.0), 10 mM MgCl2, 10 mM dithiotheritol 10 mM uridine 5'-diphosphate glucose, 1 mM isobutyrate, 2 units of GTI activity is made up. Reaction is carried out for 2 hrs. at 37° C. 1-O-isobutyryl-β-D-glucose is formed.

reactant | Tris-HCl | 50 mM, pH 7.0 | C(C(CO)(CO)N)O.Cl
reactant | MgCl2 | 10 mM | [Mg+2].[Cl-].[Cl-]
reactant | uridine 5'-diphosphate glucose | 10 mM | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)O)O
reactant | isobutyrate | 1 mM | C(C(C)C)(=O)[O-]
product | 1-O-isobutyryl-β-D-glucose | C(C(C)C)(=O)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C10H18O7
